US04529733
A mixture of methyl 2-furoate (23 g, 0.18 mole) and acetone (10.6 g, 0.18 mole) was slowly added to a stirred suspension of potassium tert-butoxide (41 g, 0.36 mole) in anhydrous toluene (300 ml) at 0° C. Upon standing overnight at room temperature, glacial acetic acid (22 ml, 0.36 mole) and then water (100 ml) were added. The organic layer was separated, combined with an ether extract of the aqueous phase, washed with water, dried, and distilled to give 1-(2-furyl)-1,3-dioxobutane: b.p. 66°-70° C./0.1 mm (18.5 g).

reactant | methyl 2-furoate | 0.18 mole, 23 g | O1C(=CC=C1)C(=O)OC | C6H6O3
reactant | acetone | 0.18 mole, 10.6 g | CC(=O)C | C3H6O
reactant | potassium tert-butoxide | 0.36 mole, 41 g | CC(C)([O-])C.[K+]
reactant | acetic acid | 0.36 mole, 22 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | 1-(2-furyl)-1,3-dioxobutane | O1C(=CC=C1)C(CC(C)=O)=O | C8H8O3
